US05004745
1-Ethyl-7-fluoro-8-[4-(2-hydroxyethyl)-1piperazinyl]-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is prepared under the conditions of Example 5 but starting from 1.6 g of 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 2.6 g of 1-(2-hydroxyethyl)-piperazine in 16 cm3 of pyridine. 1.3 g of 1-ethyl-7-fluoro-8-[4-(2-hydroxyethyl)-1-piperazinyl] 4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid melting at 264°-265° C.

reactant | 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.6 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F | C15H10ClFN2O3
reactant | 1-(2-hydroxyethyl)-piperazine | 2.6 g | OCCN1CCNCC1 | C6H14N2O
solvent | pyridine | 16 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-7-fluoro-8-[4-(2-hydroxyethyl)-1-piperazinyl] 4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.3 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)CCO)=O)C(=O)O | C21H23FN4O4
